US05872118
A suspension of (E)-2-(4,6-difluoro-1-indanylidene)acetamide (10.0 g, 0.05 mol, prepared as in Example 5g in dichloromethane (250 mL) was added portionwise over a 10 min. period to a mixture of 70% aqueous t-butylhydroperoxide (19.8 mL, 0.15 mol, Aldrich) and selenium dioxide (3.7 g, 0.03 mol, Aldrich) in dichloromethane (500 mL) at ambient temperature. After 18 h, additional t-butylhydroperoxide (10 mL of a 5.0M solution in 2,2,4-trimethylpentane, 0.05 mol, Aldrich) and selenium dioxide (1.8 g, 0.02 mol) were added and the mixture was stirred at ambient temperature. After 18 h, additional t-butylhydroperoxide (10 mL of 70% aqueous solution, 0.08 mol) and selenium dioxide (3.7 g, 0.05 mol) were added and the mixture was stirred at ambient temperature for 8 days. The resulting solid was filtered off and washed with dichloromethane to give 5.85 g of crude (Z)-2-(4,6-difluoro-2-hydroxy-1-indanylidene)acetamide. After 7 days at ambient temperature a second crop of crude (Z)-2-(4,6difluoro-2-hydroxy-1-indanylidene)acetamide was obtained from the filtrate. Column chromatography on silica gel using ethyl acetate as the eluent followed by a second column chromatography on silica gel using ethyl acetate:hexanes (3:2) as eluent and trituration of the resulting solid with pentane gave 2.38 g of (Z)-2-(4,6-difluoro2-hydroxy-1-indanylidene)acetamide as a pink solid: m.p. 235°-237° C.;

reactant | (E)-2-(4,6-difluoro-1-indanylidene)acetamide | FC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)N | C11H9F2NO
reactant | t-butylhydroperoxide | 0.15 mol, 19.8 mL | C(C)(C)(C)OO | C4H10O2
reactant | selenium dioxide | 0.03 mol, 3.7 g | [Se](=O)=O | O2Se
reactant | selenium dioxide | 0.02 mol, 1.8 g | [Se](=O)=O | O2Se
reactant | t-butylhydroperoxide | 0.08 mol, 10 mL | C(C)(C)(C)OO | C4H10O2
reactant | selenium dioxide | 0.05 mol, 3.7 g | [Se](=O)=O | O2Se
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | 2,2,4-trimethylpentane | CC(C)(CC(C)C)C | C8H18
product | (Z)-2-(4,6-difluoro-2-hydroxy-1-indanylidene)acetamide | 5.85 g | FC1=C2CC(\C(\C2=CC(=C1)F)=C/C(=O)N)O | C11H9F2NO2
